US06372759B1
F) 2-[(4-t-Butylbenzoyl)amino]-N-(6-indazolyl)benzamide
To a stirring solution of 2-[(4-t-butylbenzoyl)amino]-N-(1-Boc-6-indazolyl)benzamide (200 mg, 0.39 mmol) in anisole (1 mL) and dichloromethane (10 mL) was added TFA (10 mL). After stirring for 30 min, the solvents were removed by rotary evaporation and the residue was partitioned between ethyl acetate and satd aq NaHCO3. The aqueous phase was removed and the organic phase was washed again with NaHCO3, followed by brine. The organic phase was then dried with MgSO4, filtered and concentrated in vacuo to a very small volume, then diluted with ether and sonicated. The white precipitate was then filtered and dried in vacuo to give 124 mg (77%) of white solid.

reactant | 2-[(4-t-butylbenzoyl)amino]-N-(1-Boc-6-indazolyl)benzamide | 0.39 mmol, 200 mg | C(C)(C)(C)C1=CC=C(C(=O)NC2=C(C(=O)NC3=CC=C4C=NN(C4=C3)C(=O)OC(C)(C)C)C=CC=C2)C=C1 | C30H32N4O4
reactant | TFA | 10 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | anisole | 1 mL | C1(=CC=CC=C1)OC | C7H8O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 2-[(4-t-Butylbenzoyl)amino]-N-(6-indazolyl)benzamide | 124 mg, 77% | C(C)(C)(C)C1=CC=C(C(=O)NC2=C(C(=O)NC3=CC=C4C=NNC4=C3)C=CC=C2)C=C1 | C25H24N4O2
